US03946019
A solution of isopropyl aminooxyacetate hydrochloride (23.4 g.) in water (128 cc.) is added to a stirred boiling suspension of 7H-indolizino[5,6,7-ij]isoquinolin-7-one (16.0 g.) in ethanol (320 cc.) and pyridine (11.05 g.). Boiling is maintained for 2 hours 45 minutes. After cooling to a temperature of about 20° C., water (960 cc.) is added with stirring. After stirring for 16 hours, the brown amorphous product which has precipitated is filtered off, then washed with distilled water and dissolved in ethyl acetate (500 cc.). The resulting organic solution is washed with water (3 × 200 cc.) and then dried over calcined magnesium sulphate. After evaporation of the solvent under reduced pressure, crude 7-isopropoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline (18.1 g.) is obtained and is recrystallised from a mixture of ethyl acetate (115 cc.) and cyclohexane (460 cc.). 7-Isopropoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline, solvated by ethyl acetate, (12.49 g.), melting at 70° C., is thus obtained.

reactant | isopropyl aminooxyacetate hydrochloride | 23.4 g | Cl.NOCC(=O)OC(C)C
reactant | 7H-indolizino[5,6,7-ij]isoquinolin-7-one | 16.0 g | C1=CC=C2C=CN=C3C2=C1N1C=CC=C1C3=O | C14H8N2O
solvent | water | 128 cc | O | H2O
solvent | ethanol | 320 cc | C(C)O | C2H6O
solvent | pyridine | 11.05 g | N1=CC=CC=C1 | C5H5N
solvent | water | 960 cc | O | H2O
product | 7-isopropoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij]isoquinoline | 18.1 g | C(C)(C)OC(=O)CON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C19H17N3O3
